US05095014
3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N-methyl-1-azetidinecarboxamide
A solution of 2 g (0.0065 mole) of 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated while stirring with 1 ml (0.013 mole) of 40% aqueous monomethylamine. After stirring for 16 h the reaction mixture was diluted with 100 ml of water and the solid which precipitated was collected by filtration (2.4 g). Recrystallization from benzene/ligroin yielded 2.2 g of white crystals, mp 160°-161°.

reactant | 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.0065 mole, 2 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)C(F)(F)F | C11H8Cl2F3NO2
reactant | monomethylamine | 0.013 mole, 1 ml | CN | CH5N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-[2-Chloro-4-(trifluoromethyl)phenoxy]-N-methyl-1-azetidinecarboxamide | 2.2 g | ClC1=C(OC2CN(C2)C(=O)NC)C=CC(=C1)C(F)(F)F | C12H12ClF3N2O2
